US04215123
To 10 g. (0.06 mole) of methyl 2-chloronicotinate in 50 ml. of methanol was added 6.0 g. (0.13 mole) of ethylamine in 25 ml. of methanol and this was placed into an autoclave and heated on a steam bath for 4 hours. Then the reaction solution was stripped, water added, made very basic via NH4OH, extracted into CHCl3, washed with water, dried and then stripped to dryness to yield 2-ethylaminonicotinic acid, methyl ester. An HCl-salt was prepared by adding the crude residue to ethyl acetate and then adding ethereal-HCl. The product precipitated out of solution and was collected on a filter and rinsed with petroleum ether to give 7 g. of product with a m.p. of 140°-5° C.

reactant | methyl 2-chloronicotinate | 0.06 mole | ClC1=C(C(=O)OC)C=CC=N1 | C7H6ClNO2
reactant | methanol | CO | CH4O
reactant | ethylamine | 0.13 mole | C(C)N | C2H7N
reactant | NH4OH | [NH4+].[OH-]
solvent | water | O | H2O
product | 2-ethylaminonicotinic acid, methyl ester | C(C)NC1=C(C(=O)OC)C=CC=N1 | C9H12N2O2
